US07923456B2
5-(2-Fluoro-4-iodophenylamino)-N-methylimidazo[1,5-a]pyrazine-6-carboxamide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester (108 mg, 0.26 mmol) in anhydrous methanol (0.5 mL) was added 2M methylamine in THF (1.3 mL, 2.6 mmol, 10 eq), and the reaction mixture was stirred at room temperature under N2 for 3 days. The reaction mixture was diluted with ethyl acetate (50 mL). The organic layer was washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to reverse-phase preparative HPLC [Gemini-NX (100×30 mm, 10 micron), 0.1% FA in water/acetonitrile, 5-85%, ramp time in 10 minutes, flow at 60 ml/min] to afford the title compound as a white solid (48.3 mg, 44.8%). 1H NMR (DMSO-d6, 400 MHz) δ ppm 10.89 (s, 1H), 8.95 to 8.91 (m, 1H), 8.86 (s, 1H), 7.92 (s, 1H), 7.88 (s, 1H), 7.76 (dd, J=8.4 Hz, 1.2 Hz, 1H), 7.44 (d, J=6.8 Hz, 1H), 6.51 (t, J=6.8 Hz, 1H), 2.81 (d, 4.0 Hz, 3H); LCMS (method E2): RT=12.23 min, [M+H]+=412.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester | 0.26 mmol, 108 mg | COC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C14H10FIN4O2
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 2.6 mmol, 1.3 mL, 10 eq | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2-Fluoro-4-iodophenylamino)-N-methylimidazo[1,5-a]pyrazine-6-carboxamide | 48.3 mg, 44.8% | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)NC | C14H11FIN5O
